US07897773B2
2.76 g of tert-butyl 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane-8-carboxylate and 4 ml of a 4N solution of hydrochloric acid in dioxane are placed in a 10 ml round-bottomed flask. The reaction mixture is stirred for one and a half hours. The dioxane is evaporated off and 0.341 g of 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane dihydrochloride is obtained.

reactant | tert-butyl 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane-8-carboxylate | 2.76 g | N1=CC=C(C=C1)C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C17H24N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane dihydrochloride | 0.341 g | Cl.Cl.N1=CC=C(C=C1)C1CC2CCC(C1)N2 | InChI=1S/C12H16N2.2ClH/c1-2-12-8-10(7-11(1)14-12)9-3-5-13-6-4-9;;/h3-6,10-12,14H,1-2,7-8H2;2*1H
